* source ADC
V_V5         N06901 0 2.2
V_V2         N00183 0 5
R_R1         N00206 N00183  3k  
R_R3         N07919 N00183  10k  
R_R2         0 N00206  2k  
R_R4         N07981 0  10k  
X_U2         N00206 N06901 0 N05848 N07919 N07981 
+ M_UN0001 M_UN0002 M_UN0003 M_UN0004 M_UN0005 M_UN0006 M_UN0007 M_UN0008
+  M_UN0009 M_UN0010 $G_DPWR $G_DGND ADC10break 
+PARAMS:  MNTYMXDLY=0 IO_LEVEL=0
V_V3         N00771 0  
+SIN 0 50m 100 0 0 0
V_V8         N05848 0  
+PULSE 0 5 0 1n 1n 10u 200u
V_V4         N00736 N00771  
+SIN 0 50m 800 0 0 0
C_C1         N00736 N00206  100u  
